US03970664
A mixture of 13.5 g. of 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine 4-oxide, 200 ml. of ethanol, 9 ml. of triethylorthoacetate and 0.5 g. of p-toluenesulfonic acid was refluxed for 20 minutes. The ethanol was removed under reduced pressure. The residue was partitioned between methylene chloride and aqueous sodium carbonate solution. The methylene chloride layer was dried and evaporated. The remaining crystals were recrystallized from ethyl acetate to yield 8-chloro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine 5-oxide with a melting point of 280°-282°.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine 4-oxide | ClC=1C=CC2=C(C(=[N+](CC(=N2)NN)[O-])C2=CC=CC=C2)C1 | C15H13ClN4O
reactant | triethylorthoacetate | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine 5-oxide | ClC=1C=CC2=C(C(=[N+](CC=3N2C(=NN3)C)[O-])C3=CC=CC=C3)C1 | C17H13ClN4O
